### PR TITLE
Generalize barrett2

### PR DESCRIPTION
**Pull request by jadephilipoom**
This is #533, rebased on top of the removal of 8.7 support and other changes to master that happened in the meantime.

### CODE REVIEW

File: src/Arithmetic.v [hunk 1]
```diff
@@ -56,6 +56,8 @@ Require Import Crypto.Util.Equality.
 Require Import Crypto.Util.Tactics.SetEvars.
 Import Coq.Lists.List ListNotations. Local Open Scope Z_scope.
 
+Hint Rewrite Nat.add_1_r : natsimplify. (* TODO : put in a better location *)
```
Comment (JasonGross) [inline src/Arithmetic.v]: Please move this to NatUtil or something, or else make it local

File: src/Arithmetic.v [hunk 2]
```diff
@@ -4820,497 +4927,579 @@ Module WordByWordMontgomery.
   End modops.
 End WordByWordMontgomery.
 
+Hint Rewrite Z2Nat.inj_succ using omega : push_Zto_nat. (* TODO: put in PullPush *)
```
Comment (JasonGross) [inline src/Arithmetic.v]: Please move this before merging, and use the arith side condition tactic that's used by other hints

File: src/Arithmetic.v [hunk 3]
```diff
@@ -4820,497 +4927,579 @@ Module WordByWordMontgomery.
...
-      represents a x ->
-      0 <= x < 2 * y ->
-      0 <= y < 2 ^ k ->
-      cond_sub1 a y = if (x <? 2 ^ k) then x else x - y.
-    Proof.
-      intros; cbv [cond_sub1 Let_In]. rewrite Z.zselect_correct. push_rep.
-      break_match; Z.ltb_to_lt; rewrite cc_l_only_bit in *; try omega;
-        autorewrite with zsimplify_fast to_div_mod pull_Zmod; auto with zarith.
-    Qed.
+        (* improved! *)
```
Comment (JasonGross) [inline src/Arithmetic.v]: ?  Should this be copied to the story library?

File: src/Arithmetic.v [hunk 4]
```diff
@@ -5358,10 +5546,15 @@ Module MontgomeryReduction.
 
     Local Lemma eval2 x y : Positional.eval w 2 [x;y] = x + R * y.
     Proof. cbn. change_weight. ring. Qed.
+    Local Lemma eval1 x : Positional.eval w 1 [x] = x.
+    Proof. cbn. change_weight. ring. Qed.
 
     Hint Rewrite BaseConversion.widemul_inlined_reverse_correct BaseConversion.widemul_inlined_correct
          using (autorewrite with widemul push_nth_default; solve [solve_range]) : widemul.
 
+    (* TODO: move *)
```
Comment (JasonGross) [inline src/Arithmetic.v]: Please do

File: src/Arithmetic.v [hunk 5]
```diff
@@ -4820,497 +4927,579 @@ Module WordByWordMontgomery.
...
+                     | |- ?a <> 0 => apply Z.positive_is_nonzero
+                     | |- ?a > 0 => apply Z.lt_gt 
+                     | |- ?a >= 0 => apply Z.le_ge
+                     end;
+              try match goal with
+                  | |- 0 < ?a => Z.zero_bounds
+                  | |- 0 <= ?a => Z.zero_bounds
+                  end.
+        
+        Ltac zutil_arith ::= solve [ omega | Psatz.lia | auto with nocore | solve [zero_bounds'] ].
```
Comment (JasonGross) [inline src/Arithmetic.v]: Local?  Also, why Psatz.lia?

**Comment by jadephilipoom** [comment]
Virtually all of that moving is done in a local branch that I have on top of this one. I'd prefer to merge this separately, though.

**Comment by JasonGross** [comment]
Sure, that seems fine
